US07932272B2
C-(5-Benzyloxy-pyridin-2-yl)-methylamine
2-(5-Benzyloxy-pyridin-2-ylmethyl)-isoindol-1,3-dione described in Preparation Example 184 (4.10 g, 11.9 mmol) was dissolved in ethanol (40 mL) and tetrahydrofuran (40 mL). Hydrazine monohydrate (5.77 mL, 119 mmol) was added to this solution at room temperature, and the solution was stirred under reflux for 50 minutes. The reaction solution was partitioned in water and ethyl acetate. This organic layer was separated, washed with brine and dried over anhydrous magnesium sulfate. The organic layer was filtered, then, the solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (ethyl acetate), and the title compound (2.8 g, quantitatively) was obtained as a pale yellow solid.

reactant | 2-(5-Benzyloxy-pyridin-2-ylmethyl)-isoindol-1,3-dione | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CN1C(C2=CC=CC=C2C1=O)=O | C21H16N2O3
reactant | Hydrazine monohydrate | 119 mmol, 5.77 mL | O.NN
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | C-(5-Benzyloxy-pyridin-2-yl)-methylamine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CN | C13H14N2O
